US06734191B2
To a solution of N′-(1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (397 mg, 1.0 mmol) in THF (10 mL) was added N,N′-di-t-butoxycarbonyl-pyrazole-1-carboxamidine (370 mg, 1.2 mmol) and potassium carbonate (207 mg, 1.5 mmol) and the mixture stirred at room temperature for 16 h. The reaction was diluted with aqueous NH4Cl (15 mL) and the mixture extracted with ethyl acetate (3×10 mL). The combined organic fractions were dried (Na2SO4), filtered, concentrated and purified by chromatography on silica gel (19:1 CH2Cl2/MeOH) to afford N′,N″-di-t-butoxycarbonyl-N-(4-{[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-methyl}-benzyl)-guanidine as a pale foam (426 mg, 67%). 1H NMR (CDCl3) δ1.25 (s, 9H), 1.44 (s, 9H), 1.65 (m, 1H), 1.99 (m, 2H), 2.04 (m, 1H), 2.72-2.79 (m, 2H), 3.73 (s, 2H), 3.94 (d, 1H, J=16.1 Hz), 4.07 (m, 1H), 4.11 (d, 1H, J=16.1 Hz), 4.51 (d, 2H, J=6.2 Hz), 7.14 (m, 4H), 7.39 (m, 3H), 7.55 (m, 1H), 7.63 (m, 1H), 8.47 (m, 1H (NH)), 8.66 (d, 1H, J=4.8 Hz).

reactant | N′-(1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 1.0 mmol, 397 mg | N1C(=NC2=C1C=CC=C2)CN(CC2=CC=C(C=C2)CN)C2CCCC=1C=CC=NC21 | C25H27N5
reactant | N,N′-di-t-butoxycarbonyl-pyrazole-1-carboxamidine | 1.2 mmol, 370 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1N=CC=C1 | C14H22N4O4
reactant | potassium carbonate | 1.5 mmol, 207 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | 15 mL | [NH4+].[Cl-]
product | N′,N″-di-t-butoxycarbonyl-N-(4-{[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-methyl}-benzyl)-guanidine | 426 mg, 67% | C(C)(C)(C)OC(=O)NC(NCC1=CC=C(C=C1)CN(C1CCCC=2C=CC=NC12)CC1=NC2=C(N1)C=CC=C2)=NC(=O)OC(C)(C)C | C36H45N7O4
